US04725605
2-Bromoacetyl-4-methoxypyridine (11.5 g, 0.05) and 2-chlorobenzimidazole (7.5 g, 0.05 mole) were dissolved in dimethylformamide (75 ml) and cooled to 2° C. K2CO3 (12 g, 0.08 mole) was added and the temperature rose to 9° C. as the suspension was stirred for 1/2 hour. The mixture was added to H2O (200 ml) giving a solid which was removed by filtration. The mother liquors were extracted with ethyl acetate and the solid was dissolved in the extracts. The organic solution was washed (brine) and dried (MgSO4) and purified by passage down a silica column and evaporated to dryness to give a sticky solid. Trituration with propan-2-ol/di-isopropyl ether gave 2-chloro-1-[2-(2-[4-methoxypyridyl])-2-oxoethyl]-benzimidazole (7.2 g).

reactant | 2-Bromoacetyl-4-methoxypyridine | 11.5 g | BrCC(=O)C1=NC=CC(=C1)OC | C8H8BrNO2
reactant | 2-chlorobenzimidazole | 0.05 mole, 7.5 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | K2CO3 | 0.08 mole, 12 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 200 ml | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | propan-2-ol di-isopropyl ether | CC(C)O.C(C)(C)OC(C)C | InChI=1S/C6H14O.C3H8O/c1-5(2)7-6(3)4;1-3(2)4/h5-6H,1-4H3;3-4H,1-2H3
